US09029374B2
3-fluoro-5-methylaniline (0.091 mL, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (0.1 g, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(3-fluoro-5-methylphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (0.053 g, 57%) as a white solid. Mass Spectrum: M+H+ 454.

reactant | 3-fluoro-5-methylaniline | 0.82 mmol, 0.091 mL | FC=1C=C(N)C=C(C1)C | C7H8FN
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 0.1 g | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3-fluoro-5-methylphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.053 g, 57% | FC=1C=C(C=C(C1)C)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C25H28FN3O4
